US08183240B2
Ethyl 3-amino-4-cyano-5-(methylsulfanyl)thiophene-2-carboxylate (10 g, 41.3 mmol) was dissolved in acetonitrile (50 mL) under atmosphere of argon. Diiodomethane (11.6 mL, 0.144 mol) was added and the mixture was heated at 40° C. Isoamyl nitrite (12.1 g, 0.103 mol) was added and the reaction was allowed to cool to room temperature and stirred for 2 hours. Mixture was cooled down at 0° C., diluted with hexane (50 mL) and the precipitate was filtered off, washed with 10:1 hexane-acetonitrile mixture (10 mL), 3:1 hexane-ether (10 mL) and hexane (10 mL). The precipitate was dried to afford ethyl 4-cyano-3-iodo-5-(methylsulfanyl)thiophene-2-carboxylate (6.90 g, 45%). LCMS: (FA) ES+ 354. 1H NMR (400 MHz, d1-chloroform) δ: 4.38 (q, 2H), 2.70 (s, 3H), 1.40 (t, 3H).

reactant | Ethyl 3-amino-4-cyano-5-(methylsulfanyl)thiophene-2-carboxylate | 41.3 mmol, 10 g | NC1=C(SC(=C1C#N)SC)C(=O)OCC | C9H10N2O2S2
reactant | Diiodomethane | 0.144 mol, 11.6 mL | ICI | CH2I2
reactant | Isoamyl nitrite | 0.103 mol, 12.1 g | N(=O)OCCC(C)C | C5H11NO2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | hexane | 50 mL | CCCCCC | C6H14
product | ethyl 4-cyano-3-iodo-5-(methylsulfanyl)thiophene-2-carboxylate | 6.90 g, 45% | C(#N)C=1C(=C(SC1SC)C(=O)OCC)I | C9H8INO2S2
